US07829580B2
(a) (E)-3-Benzylidene-1-(triphenylmethyl)piperidin-4-one
To a solution of 1-(triphenylmethyl)piperidin-4-one (4.22 g) in benzene (50 ml) was added pyrrolidine (1.02 ml) at room temperature, and the resulting mixture was refluxed for 3 hours. After cooling to room temperature, benzaldehyde (1.26 ml) was added to the reaction mixture, and the resulting mixture was furthermore refluxed for 2 hours. After refluxing, the reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:3) as the eluent to afford the title compound (3.92 g, yield: 74%) as a yellow oil.

reactant | 1-(triphenylmethyl)piperidin-4-one | 4.22 g | C1(=CC=CC=C1)C(N1CCC(CC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23NO
reactant | pyrrolidine | 1.02 ml | N1CCCC1 | C4H9N
reactant | benzaldehyde | 1.26 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-3-Benzylidene-1-(triphenylmethyl)piperidin-4-one | 3.92 g, yield: 74% | C(/C1=CC=CC=C1)=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H27NO
